US05760054
A solution of 16 g of pyridine-3-sulfonyl chloride prepared as described by B. I. Alo, O. B. Familoni, F. Marsais and G. Queguiner, J. Heterocyclic Chem. 1992,29, 61-4 in 250 mL of chloroform was added to a solution of 8 g of 4-amino-1-butanol and 40 mL of triethylamine in 250 mL of chloroform at 0° C. The mixture was stirred overnight while warming to ambient temperature, the concentrated under reduced pressure to dryness. The residue was stirred with 500 mL of ethyl acetate, filtered and concentrated to dryness. To a solution of the crude N-(4-hydroxybutyl)pyridine-3-sulfonamide (28 g) in 200 mL of dichloromethane was added 30 mL of 3,4-dihydro-2H-pyran and 3 g of p-toluenesulfonic acid monohydrate. The reaction was stirred overnight, shaken with 100 mL of saturated sodium bicarbonate, dried over MgSO4, and concentrated to dryness. Chromatography of the residue over silica gel, eluting with ethyl acetate gave 20 g of N-(4-(2-tetrahydropyranyloxy)butyl)pyridine-3-sulfonamide as a thich amber oil.

reactant | pyridine-3-sulfonyl chloride | 16 g | N1=CC(=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
reactant | 4-amino-1-butanol | 8 g | NCCCCO | C4H11NO
reactant | triethylamine | 40 mL | C(C)N(CC)CC | C6H15N
solvent | chloroform | 250 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 250 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(4-(2-tetrahydropyranyloxy)butyl)pyridine-3-sulfonamide | 20 g | O1C(CCCC1)OCCCCNS(=O)(=O)C=1C=NC=CC1 | C14H22N2O4S
